US08580146B2
(E)-(4-(trans-4-Propylcyclohexyl)but-3-en-1-yl)-4-triisopropylsilyloxycyclohexane (s43) (8.3 g) and THF (50 ml) were placed in a reaction vessel under an atmosphere of nitrogen, and cooled to 0° C. Tetrabutylammonium fluoride (TBAF; 1.0 M; in THF; 38.0 ml) was added in the temperature range of 0° C. to 5° C. After 1 hour of stirring at 0° C., the reaction mixture was allowed to come to room temperature, and the stirring was continued for another 8 hours. After the completion of the reaction had been confirmed by means of GC analysis, the reaction mixture was treated with water, and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water, and then dried over anhydrous magnesium sulfate. The solution was concentrated under reduced pressure, and the residue was purified by column chromatography with toluene as an eluent and silica gel as a stationary phase powder to give (E)-4-(4-(trans-4-propylcyclohexyl)but-3-en-1-yl)cyclohexanol (s44) (4.7 g). The yield based on the compound (s43) was 88.4%.

reactant | (E)-(4-(trans-4-Propylcyclohexyl)but-3-en-1-yl)-4-triisopropylsilyloxycyclohexane | 8.3 g | C(CC)[C@@H]1CC[C@H](CC1)/C=C/CCC1CCC(CC1)O[Si](C(C)C)(C(C)C)C(C)C | C28H54OSi
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | Tetrabutylammonium fluoride | 1.0 M, 38.0 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | (E)-4-(4-(trans-4-propylcyclohexyl)but-3-en-1-yl)cyclohexanol | 4.7 g | C(CC)[C@@H]1CC[C@H](CC1)/C=C/CCC1CCC(CC1)O | C19H34O
